US06657060B2
In analogy to example 12c), by heating (E)-2-[2-(3-chloro-4-fluorofluoro-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol (1.85 g, 7 mmol) in POCl3 (12.83 ml, 0.14 mol) at 130° C. for 4.5 h there was obtained (E)-4-chloro-2-[2-(3-chloro-4-fluoro-phenyl)-vinyl]-6-methyl-pyrimidine (1.65 g, 83%) as a yellow solid. EI mass spectrum, m/e: 282 (M+1 calculated for C13H9Cl2FN2: 282).

reactant | (E)-2-[2-(3-chloro-4-fluorofluoro-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol | 7 mmol, 1.85 g | ClC=1C(=C(C=CC1F)/C=C/C1=NC(=CC(=N1)O)C)F | C13H9ClF2N2O
reactant | POCl3 | 0.14 mol, 12.83 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-4-chloro-2-[2-(3-chloro-4-fluoro-phenyl)-vinyl]-6-methyl-pyrimidine | 1.65 g, 83% | ClC1=NC(=NC(=C1)C)\C=C\C1=CC(=C(C=C1)F)Cl | C13H9Cl2FN2
